US07820662B2
4-Methyl-2-phenyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline
A mixture of 7-chloro-4-methyl-2-phenylquinoline (335 mg, 1.3 mmol), bis(pinacolato)diboron (389 mg, 1.5 mmol), Pd(OAc)2 (18 mg, 0.08 mmol), 1,3-bis(2,6-di-1-propylphenyl)imidazolium chloride (67 mg, 0.16 mmol) and KOAc (130 mg, 1.3 mmol) in anh THF (18 mL) under Ar heated at reflux for 21 h. Then the reaction was charged again with Pd(OAc)2 (18 mg, 0.08 mmol), 1,3-bis(2,6-di-1-propylphenyl)imidazolium chloride (67 mg, 0.16 mmol) and evacuated and refilled with Ar (4×) while being cooled in a dry ice-acetone bath. The reaction mixture was heated at reflux for 27 h. The mixture was the cooled to rt, diluted with EtOAc (100 mL), washed (brine, 2×20 mL), dried (Na2SO4) and concentrated under reduced pressure to yield a light brown gum. The material was taken into hexanes to provide the title compound as a yellow solid which was used in the following step without further purification; MS (ES+): m/z 346.2 (100) [MH+]; HPLC: tR=3.99 min (OpenLynx, nonpolar—5 min).

reactant | 7-chloro-4-methyl-2-phenylquinoline | 1.3 mmol, 335 mg | ClC1=CC=C2C(=CC(=NC2=C1)C1=CC=CC=C1)C | C16H12ClN
reactant | bis(pinacolato)diboron | 1.5 mmol, 389 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 1,3-bis(2,6-di-1-propylphenyl)imidazolium chloride | 0.16 mmol, 67 mg | [Cl-].C(CC)C1=C(C(=CC=C1)CCC)[N+]1=CN(C=C1)C1=C(C=CC=C1CCC)CCC
reactant | KOAc | 1.3 mmol, 130 mg | CC(=O)[O-].[K+]
reactant | 1,3-bis(2,6-di-1-propylphenyl)imidazolium chloride | 0.16 mmol, 67 mg | [Cl-].C(CC)C1=C(C(=CC=C1)CCC)[N+]1=CN(C=C1)C1=C(C=CC=C1CCC)CCC
solvent | THF | 18 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.08 mmol, 18 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Pd(OAc)2 | 0.08 mmol, 18 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-Methyl-2-phenyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | CC1=CC(=NC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1 | C22H24BNO2
